US06608087B1
4-Methoxymethyl-2-phenyl-thiazole-5-carboxylic Acid Methyl Ester
A solution of CH3O2CCH(Cl)COCH2OCH3 (68 mmole, 1.2 eq), prepared according to De Kimpe et al., Synthesis, 188 (1986), in absolute EtOH (75 ml) was treated with thiobenzamide (7.8 g, 56.7 mmole, 1.0 eq) and the resulting brown mixture refluxed under nitrogen for 8 hours. The mixture was partitioned between ethyl acetate and saturated NaHCO3. The organic layer was washed with water twice and brine, then dried over anhydrous sodium sulfate and concentrated in vacuo to give a brown oil. Silica gel chromatography eluting with (9:1) hexanes-ethyl acetate provided 6.98 g (47%) of title compound as a yellow crystalline solid. 1H NMR (CDCl3): δ 3.6 (s, 3H), 3.9 (s, 3H), 4.95 (s, 2H), 7.4-7.5 (m, 3H), 8.0 (m, 2H).

reactant | CH3O2CCH(Cl)COCH2OCH3 | 68 mmole, 1.2 eq | COC(=O)C(Cl)C(=O)COC | C6H9ClO4
reactant | thiobenzamide | 56.7 mmole, 7.8 g, 1.0 eq | C(C1=CC=CC=C1)(=S)N | C7H7NS
solvent | EtOH | 75 ml | CCO | C2H6O
product | 4-Methoxymethyl-2-phenyl-thiazole-5-carboxylic Acid Methyl Ester | 6.98 g, 47% | COC(=O)C1=C(N=C(S1)C1=CC=CC=C1)COC | C13H13NO3S
